US07888349B2
The method described in Part D of Example 365 was used to treat tert-butyl 2-[7-bromo-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate (10.0 g, 22.7 mmol) with potassium tert-butoxide (27.29 mL of a 1 M solution in THF) with the modification that the reaction was stirred overnight to provide tert-butyl 3-bromo-10,11-dihydropyrazino [1′,2′:1,2]imidazo[4,5-c]quinohne-9(8H)-carboxylate in a crude mixture.

reactant | tert-butyl 2-[7-bromo-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | 22.7 mmol, 10.0 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCNC(OC(C)(C)C)=O)CCl | C18H20BrClN4O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 3-bromo-10,11-dihydropyrazino [1′,2′:1,2]imidazo[4,5-c]quinohne-9(8H)-carboxylate | BrC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCN(C1)C(=O)OC(C)(C)C | C18H19BrN4O2
